US07196080B2
In 15 ml of a 4M hydrochloric acid-ethyl acetate solution, 0.71 g of 2-chloro-6-(4-t-butoxycarbonylpiperazin-1-yl)pyrazine was stirred at room temperature for 7 hours. The solvent was evaporated to obtain a crude product of 2-chloro-6-(piperazin-1-yl)pyrazine hydrochloride. The obtained crude product and 0.62 g of 6-(3,4-dimethoxyphenyl)pyridine-2-carboxylic acid were treated in a similar manner to Example 4 to obtain 594 mg of 2-chloro-6-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrazine as pale yellow crystals.

reactant | hydrochloric acid ethyl acetate | 4M | Cl.C(C)(=O)OCC
reactant | 2-chloro-6-(4-t-butoxycarbonylpiperazin-1-yl)pyrazine | 0.71 g | ClC1=NC(=CN=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
product | 2-chloro-6-(piperazin-1-yl)pyrazine hydrochloride | Cl.ClC1=NC(=CN=C1)N1CCNCC1 | InChI=1S/C8H11ClN4.ClH/c9-7-5-11-6-8(12-7)13-3-1-10-2-4-13;/h5-6,10H,1-4H2;1H
